US07514502B2
(C) Preparation of Alpha-methylstyrene-acrylonitrile Copolymer
70 parts by weight of alpha-methylstyrene, 30 parts by weight of acrylonitrile, 5 parts by weight of toluene, 0.135 parts by weight of 1,1-bis (tert-butylperoxi)-3,3,5 trimethylcyclohexane and 0.015 parts by weight of di-tert-butyl peroxide were homogenously mixed and continuously introduced to the reactor. The polymerization was carried out as the reaction temperature was kept at 110° C. After completion of the polymerization, the resulting polymer was supplied to a vaporizer equipped with a heat exchanger, kept at a temperature of 250° C. and a pressure of 20 Torr, in which non-reacted monomers and solvents were removed. Then, the polymer was palletized through an extruder equipped with a discharge pump. The alpha-methylstyrene-acrylonitrile copolymer prepared by the above method had an average molecular weight of 9.5×104 and a glass transition temperature (Tg) of 125° C.

reactant | alpha-methylstyrene | CC(=C)C1=CC=CC=C1 | C9H10
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | 1,1-bis (tert-butylperoxi)-3,3,5 trimethylcyclohexane | C(C)(C)(C)OOC1(CC(CC(C1)C)(C)C)OOC(C)(C)C | C17H34O4
reactant | di-tert-butyl peroxide | C(C)(C)(C)OOC(C)(C)C | C8H18O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Alpha-methylstyrene-acrylonitrile | CC(C#N)=CC=CC1=CC=CC=C1 | C12H11N
